US04625040
Preparation of N-Phenyl-2,5-dihydro-2-oxo-[N-(p-methylphenyl)amino]-3-furancarboxamide
Under nitrogen atmosphere, BOP-Cl (5.09 grams, 0.02 mol) was added in one portion to a well-stirred solution of 2-anilino-4-oxo-3-furoic acid (4.38 grams, 0.02 mol) and triethylamine (2.8 ml, 20 mmol) in 34 ml methylene chloride, at 0° C. The reaction mixture was stirred at 0° C. for 45 min after which time 2.35 grams (0.022 mol) of p-toluidine in 17 ml methylene chloride were added over a period of 15 min. followed by the dropwise addition of triethylamine (2.8 ml, 20 mmol). The reaction mixture was stirred at 5°-10° C. for 30 min and at room temperature for 2 hours, poured into ice-water, acidified with 2N hydrochloric acid (pH 1), and then extracted with methylene chloride. The organic extract was washed with 5% aqueous sodium bicarbonate solution, dried over sodium sulfate, and the solvent evaporated under reduced pressure leaving the crude product which was recrystallized from ethanol. Yield: 3.37 grams, mp 181°-183° C. (R=C6H4CH3 --p).

reactant | BOP-Cl | 0.02 mol, 5.09 grams | C1COC(=O)N1P(=O)(N2CCOC2=O)Cl | C6H8ClN2O5P
reactant | 2-anilino-4-oxo-3-furoic acid | 0.02 mol, 4.38 grams | N(C1=CC=CC=C1)C=1OCC(C1C(=O)O)=O | C11H9NO4
reactant | triethylamine | 20 mmol, 2.8 ml | C(C)N(CC)CC | C6H15N
reactant | p-toluidine | 0.022 mol, 2.35 grams | NC1=CC=C(C=C1)C | C7H9N
reactant | triethylamine | 20 mmol, 2.8 ml | C(C)N(CC)CC | C6H15N
reactant | hydrochloric acid | 2N, pH 1 | Cl | ClH
solvent | methylene chloride | 34 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 17 ml | C(Cl)Cl | CH2Cl2
product | N-Phenyl-2,5-dihydro-2-oxo-[N-(p-methylphenyl)amino]-3-furancarboxamide | C1(=CC=CC=C1)NC(=O)C=1C(OCC1NC1=CC=C(C=C1)C)=O | C18H16N2O3
